US04631281
10.0 g of 4-(2,3-epoxypropoxy)phenylacetone are dissolved in 60 ml of acetone and the solution is heated under reflux with 7.64 g of phenylpiperazine for 3 hours. The mixture is allowed to cool and the product which has crystallised out is filtered off with suction. 16.05 g of 1-[4-(propan-2-on-yl)-phenoxy]-3-(4-phenylpiperazin-1-yl)-propan-2-ol are obtained.

reactant | 4-(2,3-epoxypropoxy)phenylacetone | 10.0 g | O1C(COC2=CC=C(C=C2)CC(C)=O)C1 | C12H14O3
reactant | phenylpiperazine | 7.64 g | C=1C=CC(=CC1)N2CCNCC2 | C10H14N2
solvent | acetone | 60 ml | CC(=O)C | C3H6O
product | 1-[4-(propan-2-on-yl)-phenoxy]-3-(4-phenylpiperazin-1-yl)-propan-2-ol | 16.05 g | C(C(C)=O)C1=CC=C(OCC(CN2CCN(CC2)C2=CC=CC=C2)O)C=C1 | C22H28N2O3
